US07230023B2
(1) Diallyl [8-[(tert-butyldimethylsilyl)oxymethyl]-1-naphthyl]methyl phosphate
According to a similar procedure to that described in Example 1-(10), [8-[(tert-butyldimethylsilyl)oxymethyl]-1-naphthyl]methanol (described in Aust. J. Chem., 49, 793 (1996); 4.04 g, 13.4 mmol), tetrazole (2.34 g, 33.4 mmol), bis(allyloxy)(diisopropylamino)phosphine (described in Tetrahedron Lett., 30, 4219 (1989); 3.93 g, 16.0 mmol), and tert-butyl hydroperoxide (80% di-tert-butyl peroxide solution; Merck; 1.8 g, 16 mmol) were reacted, and the reaction mixture was worked up to afford, after extraction, an oily residue. The residue was subjected to chromatography on a silica gel (120 g) column (eluent; ethyl acetate:hexane=1:5˜1:2) to afford the title compound (5.02 g, 81% yield) as a colorless oil.

reactant | [8-[(tert-butyldimethylsilyl)oxymethyl]-1-naphthyl]methanol | 13.4 mmol, 4.04 g | [Si](C)(C)(C(C)(C)C)OCC=1C=CC=C2C=CC=C(C12)CO | C18H26O2Si
reactant | tetrazole | 33.4 mmol, 2.34 g | N1N=NN=C1 | CH2N4
reactant | bis(allyloxy)(diisopropylamino)phosphine | 16.0 mmol, 3.93 g | C(C=C)OP(N(C(C)C)C(C)C)OCC=C | C12H24NO2P
reactant | tert-butyl hydroperoxide | 16 mmol, 1.8 g | C(C)(C)(C)OO | C4H10O2
product | Diallyl [8-[(tert-butyldimethylsilyl)oxymethyl]-1-naphthyl]methyl phosphate | 5.02 g, 81% yield | P(=O)(OCC=C)(OCC=C)OCC1=CC=CC2=CC=CC(=C12)CO[Si](C)(C)C(C)(C)C | C24H35O5PSi
